US07468375B2
Step 2: Ethyl 2,3-dibromo-1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate
To a stirring solution of ethyl 4,5-dibromo-1-(4-fluorobenzyl)-2-({(2-ethoxy-2-oxoethyl)[(4-methylphenyl) sulfonyl]amino}methyl)-1H-pyrrole-3-carboxylate (124.2 g, 184.3 mol) in anhydrous THF (1.0 L) was added LiHMDS (405 mL, 1.0M in THF, 0.405 mol) at −78° C. over 1 h. The mixture was quenched with aq. NH4Cl, extracted with ethyl acetate. The organic layer was dried over Na2SO4, and concentrated. The residue was purified by column chromatography with etyl acetate/hexane (1/1, v:v) to ethyl acetate/dichloromethane (9/1) to give the title product (52.0 g 60% yield). 1H NMR (DMSO-d6) δ ppm. 11.50 (s, 1H), 8.63 (s, 1H), 7.16 (d, J=7.2 Hz, 4H), 5.60 (s, 2H), 5.67 (s, 2H), 4.39 (q, J=7.1 Hz, 2H,), 1.33 (t, J=7.2 Hz, 3H). LC/MS (API-ES, M+H+): 473.0.

reactant | ethyl 4,5-dibromo-1-(4-fluorobenzyl)-2-({(2-ethoxy-2-oxoethyl)[(4-methylphenyl) sulfonyl]amino}methyl)-1H-pyrrole-3-carboxylate | 184.3 mol, 124.2 g | BrC=1C(=C(N(C1Br)CC1=CC=C(C=C1)F)CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)OCC)C(=O)OCC | C26H27Br2FN2O6S
reactant | LiHMDS | 0.405 mol, 1.0M, 405 mL | [Li+].C[Si](C)(C)[N-][Si](C)(C)C
solvent | THF | 1.0 L | C1CCOC1 | C4H8O
product | Ethyl 2,3-dibromo-1-(4-fluorobenzyl)-4-hydroxy-1H-pyrrolo[2,3-c]pyridine-5-carboxylate | 52.0 g, 60% yield | BrC1=C(C=2C(=CN=C(C2O)C(=O)OCC)N1CC1=CC=C(C=C1)F)Br | C17H13Br2FN2O3
